US05439862
In a nitrogen-purged 500 milliliter flask o-fluorobenzoic acid (7.01 grams, 50 millimoles) was added along with 100 milliliters of anhydrous diethyl ether. The flask was cooled to -78° C. and n-butyllithium (34 milliliters/1.6M in hexane, 54.4 millimoles) was slowly added to form the lithium o-fluorobenzoate. The white precipitate was allowed to warm to room temperature (slurry 1). In a separate 250 milliliter flask purged with nitrogen was added dicyclohexylphosphine (9.91 grams, 50 millimoles) along with 100 milliliters of anhydrous diethyl ether. This solution was cooled to -78° C. and n-butyllithium (36 milliliters/1.6M in hexane, 57.6 millimoles) was added dropwise. The solution was allowed to warm slowly to room temperature, whereupon it turned bright yellow near -10° C. (slurry 2). The yellow chemiluminescent phosphide was allowed to stir at room temperature for approximately 1-2 hours. Slurry 1 was recooled to -78° C. and slurry 2 was added via cannulus over 8-10 minutes. The solution was allowed to warm to room temperature overnight whereupon it assumed a dark red/rust color. The solution was then filtered and 250 milliliters of degassed deionized water was added to extract the anion. Initially upon water addition, the solution became greenish, then more yellow as more water was added. The layers were separated in a separatory funnel and the organic phase was back-extracted with two 75 milliliter portions of water. The water layers were combined and acidified to pH 3 with diluted hydrochloric acid. An off-white precipitate forms which can be isolated by filtration, water-washing, and drying at 30°-90° C. for several hours. Isolated yield of air- and water-stable 1,1-dicyclohexyl-3-oxo[3H-2,1-benzoxaphosphole] was 10.8 grams, a 68% yield.

reactant | o-fluorobenzoic acid | 50 millimoles, 7.01 grams | FC1=C(C(=O)O)C=CC=C1 | C7H5FO2
reactant | n-butyllithium | 54.4 millimoles, 1.6M, 34 milliliters | C(CCC)[Li]
solvent | diethyl ether | 100 milliliters | C(C)OCC | C4H10O
product | lithium o-fluorobenzoate | FC1=C(C(=O)[O-])C=CC=C1.[Li+] | InChI=1S/C7H5FO2.Li/c8-6-4-2-1-3-5(6)7(9)10;/h1-4H,(H,9,10);/q;+1/p-1
